US08461162B2
3-Aminopyrazole (0.75 g, 9.04 mmol) was mixed with (2Z)-2-bromo-3-(dimethylamino)acrylaldehyde obtained at the previous step (1.85 g, 10.4 mmol). Absolute ethanol (20 mL) and glacial acetic acid (2 mL) were added. The reaction mixture was stirred under reflux for 16 h and evaporated to dryness. The residue was washed on a filter with cold ethanol/hexane mixture (3:1) and dried in a vacuum oven at 30° C. to give 6-bromopyrazolo[1,5-a]pyrimidine.

reactant | 3-Aminopyrazole | 9.04 mmol, 0.75 g | NC1=NNC=C1 | C3H5N3
reactant | (2Z)-2-bromo-3-(dimethylamino)acrylaldehyde | Br\C(\C=O)=C/N(C)C | C5H8BrNO
reactant | ethanol | 20 mL | C(C)O | C2H6O
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 6-bromopyrazolo[1,5-a]pyrimidine | BrC=1C=NC=2N(C1)N=CC2 | C6H4BrN3
